*****************************************************************
* NXP BUK9Y12-40E
*
* Polarity N-Channel
* Ratings 40V/1.200000E-002OHMS/51.8719852439895A
*
* Date Created Tue Feb 05 06:59:45 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y12-40E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00705373434795235 TC=0.00400951933945632,1.76212299286227E-05
RBD 9 4 0.00183292445436464 TC=0.00400951933945632,1.76212299286227E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 9.7e-10
RG 1 2 1.86663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1026.19
+ -16	1025.69
+ -10	1023.69
+ -5	1017.66
+ -4	1013.55
+ -3	1000.54
+ -2	854.385
+ -1	470.294
+ -0.5	312.871
+ -0.2	250.363
+ -0.1	249.107
+ 0	226.6568
+ 0.1	202.2082
+ 0.2	201.95004
+ 0.5	182.69204
+ 1	164.36656
+ 2	142.58596
+ 3	129.55548
+ 4	119.79324
+ 5	112.50036
+ 6	107.41336
+ 8	101.28162
+ 10	97.81366
+ 12	95.56175
+ 15	93.22719
+ 16	92.56024
+ 20	90.30531
+ 25	87.84188
+ 30	85.76167



.MODEL MINT NMOS(Vto=2.04756139738985 Kp=8.910271e+001 Nfs=420000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=1.12861547501081e-13
+ N=1 M=0.57 VJ=0.72 Fc=0.5 Cjo=6.0375936e-10 Tt=1.4896e-08)

.ENDS

